US08895558B2
Step 2: 1,2-Dimethyl-5-phenyl-1H-pyrrole-3-carboxylic acid
To the solution of Ethyl 1,2-dimethyl-5-phenyl-1H-pyrrole-3-carboxylic acid (3 g, 13 mmol) in EtOH (50 ml) was added NaOH (1.6 g, 39 mmol) at room temperature. The reaction mixture was refluxed for 1 day with LC-MS monitoring. After reaction complete, EtOH was evaporated under reduced pressure. Water (50 ml) was added and washed aqueous layer with diethyl ether twice. 1N HCl solution was added to aqueous layer until pH<3. And extraction was accomplished with EtOAc. Organic layer was dried with MgSO4 and evaporated in vacuo to provide title compound (2.6 g, 95%) as yellow soild. Without further purification, acid was used for the reaction of amide coupling.

reactant | Ethyl 1,2-dimethyl-5-phenyl-1H-pyrrole-3-carboxylic acid | 13 mmol, 3 g | C(C)C=1C(=C(N(C1C1=CC=CC=C1)C)C)C(=O)O | C15H17NO2
reactant | NaOH | 39 mmol, 1.6 g | [OH-].[Na+]
solvent | EtOH | 50 ml | CCO | C2H6O
product | 1,2-Dimethyl-5-phenyl-1H-pyrrole-3-carboxylic acid | 2.6 g, 95% | CN1C(=C(C=C1C1=CC=CC=C1)C(=O)O)C | C13H13NO2
